US07795262B2
Step 1. Preparation of N-[2-(3-bromo-phenyl)-ethyl]-2-chloro-benzamide
To a solution of 3-bromophenethylamine (10.0 g, 50 mmol) in DCM (100 ml) containing TEA (8.36 g, 60 mmol, 1.2 eq.) cooled to 0° C. is added 2-chlorobenzoylchloride (8.75 g, 50 mmol, 1.0 eq.) portionwise. The resulting mixture is stirred at rt for 1 hr. Water (100 ml) is added to quench the reaction. The organic layer is collected, washed with water and brine, dried over sodium sulfate, and concentrated to give the title compound.

reactant | 3-bromophenethylamine | 50 mmol, 10.0 g | BrC=1C=C(CCN)C=CC1 | C8H10BrN
reactant | 2-chlorobenzoylchloride | 50 mmol, 8.75 g, 1.0 eq. | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | Water | 100 ml | O | H2O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(3-bromo-phenyl)-ethyl]-2-chloro-benzamide | BrC=1C=C(C=CC1)CCNC(C1=C(C=CC=C1)Cl)=O | C15H13BrClNO
